US09387209B2
Step 1: Preparation of 6-chloro-2-methyl-3-phenylquinazolin-4(3H)-one
5-chloroanthranilic acid (6 g, 34.27 mmol) mixed with triphenyl phosphite (11.1 mL, 41.08 mmol) in pyridine (25 mL) was added with acetyl chloride (3.7 mL, 51.33 mmol) and stirred at rt for 3 h. The resulting mixture was added with aniline (4.7 mL, 51.47 mmol) and irradiated with microwave at 140° C. for 10 min. The reaction mixture was then diluted with ethyl acetate (50 mL) and washed with water (3×50 mL). The organic solution was kept at rt to get solid formed, and the solution was filtered to get target compound as a white solid (5.32 g, 57.3%), 1H NMR (400 MHz, DMSO-d6) δ 2.10 (s, 3H), 7.43-7.45 (m, 2H), 7.51-7.58 (m, 3H), 7.66 (d, J=8.8 Hz, 1H), 7.83 (dd, J=8.8, 0.4 Hz, 1H), 7.98 (d, J=2.4 Hz, 1H), 13C NMR (100 MHz, DMSO-d6) 24.0, 121.7, 125.1, 128.2, 128.8, 129.0, 129.5, 130.5, 134.5, 137.5, 145.9, 155.0, 160.3;

reactant | 5-chloroanthranilic acid | 34.27 mmol, 6 g | ClC1=CC=C(C(C(=O)O)=C1)N | C7H6ClNO2
reactant | triphenyl phosphite | 41.08 mmol, 11.1 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | acetyl chloride | 51.33 mmol, 3.7 mL | C(C)(=O)Cl | C2H3ClO
reactant | aniline | 51.47 mmol, 4.7 mL | NC1=CC=CC=C1 | C6H7N
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloro-2-methyl-3-phenylquinazolin-4(3H)-one | 5.32 g, 57.3% | ClC=1C=C2C(N(C(=NC2=CC1)C)C1=CC=CC=C1)=O | C15H11ClN2O
